US05122523
In 190 ml of dry dichloromethane, 3.3 g of a molecular sieves (powder, 3A) was suspended, and 4.2 ml of isopropyl orthotitanate and 2.9 ml of diethyl L(+)-tartarate were added thereto under stirring at -23° C. The mixture was stirred at the same temperature for 15 minutes. Then, 3 ml of a dry dichloromethane solution of 4.7 g of (E)-4-benzyloxy-2-buten-1-ol was added thereto, and the mixture was stirred at the same temperature for 5 minutes. 11 ml of tert-butylhydroxyperoxide (5.17M dichloromethane solution) was added thereto, and the mixture was stirred for further seven hours. Then, the reaction solution was left to stand at -23° C. overnight. To the reaction solution, 190 ml of diethyl ether and 4.2 ml of a saturated sodium sulfate aqueous solution were added, and the mixture was stirred at room temperature for 4 hours. The insolubles were removed by filtration, and the solvent was distilled off under reduced pressure. The residue was dissolved in 240 ml of diethyl ether, and 42 ml of a 1N sodium hydroxide aqueous solution was added thereto under stirring at 0° C. The mixture was stirred at 0° C. for 30 minutes. The diethyl ether layer was washed sequentially with a saturated sodium hydrogencarbonate aqueous solution and a saturated sodium chloride aqueous solution and then dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure, and then the residue was purified by silica gel column chromatography (n-hexane/ethyl acetate=1/1) to obtain 2.9 g of (2S,3S)-4-benzyloxy-2,3-epoxy-1-butanol as colorless oily substance.

reactant | diethyl L(+)-tartarate | 2.9 ml | C([C@H](O)[C@@H](O)C(=O)OCC)(=O)OCC | C8H14O6
reactant | (E)-4-benzyloxy-2-buten-1-ol | 4.7 g | C(C1=CC=CC=C1)OC/C=C/CO | C11H14O2
reactant | tert-butylhydroxyperoxide | 5.17M, 11 ml | C(C)(C)(C)OOO | C4H10O3
reactant | sodium sulfate | 4.2 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 190 ml | ClCCl | CH2Cl2
catalyst | isopropyl orthotitanate | 4.2 ml | CC(C)[O-].CC(C)[O-].CC(C)[O-].CC(C)[O-].[Ti+4]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | diethyl ether | 190 ml | C(C)OCC | C4H10O
product | (2S,3S)-4-benzyloxy-2,3-epoxy-1-butanol | 2.9 g | C(C1=CC=CC=C1)OC[C@H]1[C@H](CO)O1 | C11H14O3
